US07514458B2
3-Azido-4-methyl benzoic acid (240 mg, 1.24 mmoL) was suspeneded in 3 mL of CH2Cl2 and 3 mL of THF. Oxalyl choride (0.14 mL, 1.5 mmol) was added, followed by 1 drop of 10% DMF in THF. The mixture was stirred for 1 h and then concentrated. The residue was redissolved in dry CH2Cl2 (5 mL) and 391 mg (1.27 mmol) of N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide was added followed by 0.4 ml (2.5 mmol) of DIPEA. The mixture became homogeneous, and was stirred for 4 h, and then was washed with 1M NaHSO4 and saturated NaHCO3. The washes were extracted once with CH2Cl2 and the extracts were combined, dried with Na2SO4, filtered, and concentrated to provide 516 mg (93%) of 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide as a tan powder.

reactant | 3-Azido-4-methyl benzoic acid | 240 mg | N(=[N+]=[N-])C=1C=C(C(=O)O)C=CC1C | C8H7N3O2
reactant | Oxalyl choride | 1.5 mmol, 0.14 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide | 1.27 mmol, 391 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
reactant | DIPEA | 2.5 mmol, 0.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | 516 mg, 93% | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
